US08039490B2
Trans (4-{2-[4-(2,4-Dichloro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester
The title compound was prepared as described on example 1 from (2,4-Dichloro-phenyl)-piperidin-4-yl-methanone and Trans-[4-(2-Oxo-ethyl)-cyclohexyl]-carbamic acid tert-butylester (m/e): 483.4 (M+H+)

reactant | (2,4-Dichloro-phenyl)-piperidin-4-yl-methanone | ClC1=C(C=CC(=C1)Cl)C(=O)C1CCNCC1 | C12H13Cl2NO
reactant | Trans-[4-(2-Oxo-ethyl)-cyclohexyl]-carbamic acid tert-butylester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CC=O)=O | C13H23NO3
product | Trans (4-{2-[4-(2,4-Dichloro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCN1CCC(CC1)C(C1=C(C=C(C=C1)Cl)Cl)=O)=O | C25H36Cl2N2O3
